US04244957
Preparation of 2-[(2,6-dichlorophenyl)imino]-1-methoxyimidazolidine hydrochloride
327 mg. of 2-[(2,6-dichlorophenyl)imino]-1-hydroxyimidazolidine hydrobromide are dissolved in 5 ml. of absolute dimethylformamide, and 90 mg. of sodium hydride are added at 5°. The solution is stirred at room temperature until it becomes clear and is cooled again down to 5° and 1.2 ml. of a 1.0 molar methyl iodide solution in dimethylformamide are added. After 30 minutes, the reaction product is poured onto water and the aqueous phase is extracted twice with ether. The organic extracts are dried and evaporated in vacuo. The residue is dissolved in 1 ml. of acetonitrile, and hydrogen chloride in dioxane is added. The 2-[(2,6-dichlorophenyl)imino]-1-methoxyimidazolidine hydrochloride which has precipitated melts at 228°.

reactant | 2-[(2,6-dichlorophenyl)imino]-1-hydroxyimidazolidine hydrobromide | Br.ClC1=C(C(=CC=C1)Cl)N=C1N(CCN1)O
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | 1.0 molar | CI | CH3I
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-[(2,6-dichlorophenyl)imino]-1-methoxyimidazolidine hydrochloride | Cl.ClC1=C(C(=CC=C1)Cl)N=C1N(CCN1)OC | InChI=1S/C10H11Cl2N3O.ClH/c1-16-15-6-5-13-10(15)14-9-7(11)3-2-4-8(9)12;/h2-4H,5-6H2,1H3,(H,13,14);1H
